US07696231B2
To a suspension of methyl 4-(3-methoxy-3-oxopropyl)benzoate (500 mg, 2.25 mmol) in MeOH (10 mL) was added hydrazine hydrate (1.09 mL). After stirring for 18 h at rt, the reaction mixture was poured into water (30 mL). The solvent was evaporated off until a final volume of 5 mL and a white solid precipitated out. Filtration and drying under vacuo at 70° C. overnight gave a white solid which was identified as methyl 3-(3-hydrazino-3-oxopropyl)benzoate (38 mg, 8%) [1H NMR (300 MHz, DMSO-d6) δ 8.95 (s, 1H), 7.85 (d, J=7.9 Hz, 2H), 7.33 (d, J=7.9 Hz, 2H), 4.17 (s, 2H), 3.82 (s, 3H), 2.87 (t, J=7.7 Hz, 2H), 2.33 (t, J=7.7 Hz, 2H)]. And the filtrate was evaporated off under vacuo. The white residue was washed with MeOH and dryed under vacuo at 70° C. overnight to give 4-(3-hydrazino-3-oxopropyl)benzohydrazide (278 mg, 56%) [1H NMR (300 MHz, DMSO-d6) δ 9.66 (s, 1H), 8.94 (s, 1H), 7.71 (d, J=8.3 Hz, 2H), 7.25 (d, J=8.3 Hz, 2H), 4.43 (s, 2H), 4.14 (s, 2H), 2;84 (t, J=7.8 Hz, 2H), 2.32 (t, J=7.8 Hz, 2H)].

reactant | methyl 4-(3-methoxy-3-oxopropyl)benzoate | 2.25 mmol, 500 mg | COC(CCC1=CC=C(C(=O)OC)C=C1)=O | C12H14O4
reactant | hydrazine hydrate | 1.09 mL | O.NN
reactant | water | 30 mL | O | H2O
reactant | methyl 3-(3-hydrazino-3-oxopropyl)benzoate | 38 mg | N(N)C(CCC=1C=C(C(=O)OC)C=CC1)=O | C11H14N2O3
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(3-hydrazino-3-oxopropyl)benzohydrazide | 278 mg, 56% | N(N)C(CCC1=CC=C(C(=O)NN)C=C1)=O | C10H14N4O2
